US05744488
Methyl 5-(2-carboxyethyl)-3-(3-pyridylmethyl)-1H-indole-1-propanoate
Trifluoroacetic acid (15 ml) was added to a stirred solution of t-butyl 1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-5-propanoate (7.60 g) in dry dichloromethane (100 ml) at room temperature, and stirringwas continued for 18 hours. The solution was evaporated and the residue wasazeotroped with toluene and then dissolved in ethyl acetate. Saturated sodium bicarbonate solution was added slowly with shaking until the pH of the aqueous layer was 4-5. The organic layer was then separated, washed with water and dried (MgSO4). The solvent was evaporated and the residue was triturated with ether to give the title compound (5.70 g), m.p. 108°-110° C. Found: C,68.80; H,6.16; N,7.57%. C21 H22N2O4 requires: C,68.83; H,6.05; N,7.65%.

reactant | Trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl 1-(2-methoxycarbonylethyl)-3-(3-pyridylmethyl)-1H-indole-5-propanoate | 7.60 g | COC(=O)CCN1C=C(C2=CC(=CC=C12)CCC(=O)OC(C)(C)C)CC=1C=NC=CC1 | C25H30N2O4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Methyl 5-(2-carboxyethyl)-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 5.70 g | C(=O)(O)CCC=1C=C2C(=CN(C2=CC1)CCC(=O)OC)CC=1C=NC=CC1 | C21H22N2O4
